US06414145B1
A mixture of dimethyl 4-bromoisophthalate (54.75 g., 200.5 mmol), water (330 ml), tributylamine (55.63 g., 300.7 mmol), 4-fluorostyrene (55.63 g., 300.7 mmol) and bis(triphenylphoshine)palladium(II)chloride (2.81 g., 4.01 mmol) was heated at reflux with stirring under an inert atmosphere for 6 hours. The reaction was cooled to ambient temperature and acidified to pH 2 with 2M HCl (700 ml). The aqueous layer was removed and the residual solid washed with water (2 L), dissolved in dichloromethane (1 L) and passed through a pad of silica, eluting with more dichloromethane (2 L). Evaporation of the dichloromethane gave a solid, which was further washed with iso-hexane (1 L), and dried to give methyl 4-[2-(4-fluorophenyl)ethenyl]-3-methoxycarbonylbenzoate (56.75 g) as a pale yellow solid.

reactant | dimethyl 4-bromoisophthalate | 200.5 mmol, 54.75 g | BrC1=C(C=C(C(=O)OC)C=C1)C(=O)OC | C10H9BrO4
reactant | tributylamine | 300.7 mmol, 55.63 g | C(CCC)N(CCCC)CCCC | C12H27N
reactant | 4-fluorostyrene | 300.7 mmol, 55.63 g | FC1=CC=C(C=C)C=C1 | C8H7F
reactant | HCl | 2M, 700 ml | Cl | ClH
catalyst | bis(triphenylphoshine)palladium(II)chloride | 4.01 mmol, 2.81 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
solvent | water | 330 ml | O | H2O
product | methyl 4-[2-(4-fluorophenyl)ethenyl]-3-methoxycarbonylbenzoate | 56.75 g | FC1=CC=C(C=C1)C=CC1=C(C=C(C(=O)OC)C=C1)C(=O)OC | C18H15FO4
